US06949574B2
4-Decanoylamino-benzoic acid ethyl ester:
(Scheme 3, Compound H) To a solution of 4-amino-benzoic acid ethyl ester (2.0 g, 12.1 mmol) and decanoyl chloride (2.35 g, 13.3 mmol) in methylene chloride (20 mL) was added Et3N (1.34 g, 13.3 mmol). The resultant mixture was stirred at room temperature for one hour and then was diluted with EtOAc, washed by H2O, dried over MgSO4. After filtration and concentration in vacuo, the product was directly used in the next step.

reactant | 4-amino-benzoic acid ethyl ester | 12.1 mmol, 2.0 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | decanoyl chloride | 13.3 mmol, 2.35 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | Et3N | 13.3 mmol, 1.34 g | CCN(CC)CC | C6H15N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Decanoylamino-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(CCCCCCCCC)=O)=O | C19H29NO3
